* source SCHEMA
D_D1         N00379 N00469 MUR160 
C_C1         N01761 N00409  100n  
X_X1         N00469 N01225 N00409 MAC224A6
D_D2         N00439 N00469 MUR160 
R_R2         N00409 N01225  100  
D_D3         N00409 N00439 MUR160 
Q_VT1         N02185 N01569 Q2N4250
V_V1         N00379 0   STIMULUS=sin220-50
D_D4         N00409 N00379 MUR160 
Q_VT2         N01569 N02185 N01225 QBC846/PLP 
R_R5         N01761 N02591  3k  
R_R1         N00923 N00469  30k  
R_R7         0 N00439  2k  
R_R3         N01569 N00923  2k  
R_R6         N02591 N00923  50k  
R_R4         N00409 N01569  2k  
D_D5         N00409 N00923 D1N758 
