* source SCHEMA
D_D1         N00485 N00575 MUR160 
R_R5         N03741 N03725  3k  
R_R6         N00515 N03877  100  
D_D6         N00515 N03951 D1N758 
D_D2         N00559 N00575 MUR160 
D_D3         N00515 N00559 MUR160 
R_R7         0 N00559  2k  
X_D5         N00575 N03877 N00515 MAC224A6
D_D4         N00515 N00485 MUR160 
Q_VT2         N01257 N01597 N03877 QBC846/PLP 
C_C1         N03741 N00515  100n  
R_R2         N01257 N03951  2k  
R_R3         N00515 N01257  2k  
R_R1         N03951 N00575  30k  
R_R4         N03725 N03951  50k  
Q_VT1         N01597 N01257 N03741 Q2N4250
V_V1         N00485 0   STIMULUS=sin220-50
