* source POW_REG
D_D1         N00911 N00997 MUR160 
D_D6         N01226 N01564 D1N758 
R_R3         N01226 N02910  2k  
D_D2         N01226 N00949 MUR160 
R_R4         N02910 N01564  2k  
D_D3         N00949 N00997 MUR160 
R_R5         N02460 N03658  3k  
D_D4         N01226 N00911 MUR160 
R_R1         N01226 N01397  100  
X_X1         N00997 N01397 N01226 MAC228A6
R_R2         N01564 N00997  30k  
Q_Q1         N02944 N02910 N02460 Q2N4250
V_V1         N00911 0   STIMULUS=sin
Q_Q2         N02910 N02944 N01397 QBC846/PLP 
C_C1         N02460 N01226  100n  
R_R6         N03658 N01564  50k  
